US05463063
To a stirred solution of N-phthaloylglycine (2.50 g, 8.89 mmol) in tetrahydrofuran (50 mL) is added carbonyldiimidazole (1.50 g, 9.25 mmol) and a few crystals of 4-N,N-dimethylaminopyridine. The reaction is then heated to 50° C. for 45 minutes. After the reaction mixture had cooled to room temperature, 1 mL of concentrated ammonium hydroxide is added via syringe. The reaction is stirred for 1 hour, then diluted with 50 mL of water and partially concentrated to remove the majority of the tetrahydrofuran. The resulting slurry was filtered and the solid washed with copious amounts of water. The solid was dried in vacuo (60° C., 1 mm) to afford 1.9 g (76%) of 2-phthalimido-2-phenylacetamide as an off-white powder: mp 218°-220° C.; 1H NMR (dmso-d6) δ 9.00-7.75 (m, 4 H, Ar), 7.61 (br s, 1 H, CONH2), 7.55-7.20 (m, 6 H, Ar, CONH2), 5.82 (s, 1 H, CHCO2); 13C NMR (dmso-d6) 6 168.2, 167.1, 135.6, 134,5, 131.4, 129.4, 127.9, 127.7, 123.1, 56.3.

reactant | N-phthaloylglycine | 8.89 mmol, 2.50 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | carbonyldiimidazole | 9.25 mmol, 1.50 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-phthalimido-2-phenylacetamide | 1.9 g, 76% | C1(C=2C(C(N1C(C(=O)N)C1=CC=CC=C1)=O)=CC=CC2)=O | C16H12N2O3
